US05480857
3-Bromopyridine-4-carboxylic acid (5.0 g) was dissolved in thionyl chloride (50 ml) and the solution heated under reflux for 4 hours, cooled and evaporated in vacuo. Re-evaporation of added toluene gave 3-bromopyridine4-carbonyl chloride, m.p.151°-154° C. (dec.) (5.45 g) as a green solid.

reactant | 3-Bromopyridine-4-carboxylic acid | 5.0 g | BrC=1C=NC=CC1C(=O)O | C6H4BrNO2
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-bromopyridine4-carbonyl chloride | BrC=1C=NC=CC1C(=O)Cl | C6H3BrClNO
